US04350817
1-Ethyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carbonitrile
A stirred mixture of 7.41 g. (0.03 mole) of 4-chloro-1-ethyl-1,2-dihydro-7-methyl-2-oxo-1,8-naphthyridine-3-carbonitrile, 2.13 g. (0.03 mole) of pyrrolidine and 3.18 g. (0.03 mole) of sodium carbonate in 100 ml. of ethanol was heated under reflux for 1 hour. The mixture was filtered and the filter cake was triturated with 200 ml. of water. The insoluble material was collected, air dried and was recrystallized from 2-ethoxyethanol to give 7.4 g. of the title product, m.p. 211°-213° C.

reactant | 4-chloro-1-ethyl-1,2-dihydro-7-methyl-2-oxo-1,8-naphthyridine-3-carbonitrile | 0.03 mole | ClC1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C#N | C12H10ClN3O
reactant | pyrrolidine | 0.03 mole | N1CCCC1 | C4H9N
reactant | sodium carbonate | 0.03 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthyridine-3-Carbonitrile | C(C)N1C(C(=C(C2=CC=C(N=C12)C)N1CCCC1)C#N)=O | C16H18N4O
